US07696229B2
2. Synthesis of 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde
Into a 100 ni 3-necked round bottom flask was placed tetrahydrofuran (50 mL). To the above was added NaH (2.19 g, 54.75 mmol) in several batches, while cooling to a temperature of 0° C. This was followed by the addition of a solution of 1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde (2 g, 13.70 mmol) in tetrahydrofuran (400 mL), which was added dropwise with stirring, while cooling to a temperature of 0° C. The resulting solution was allowed to react, with stirring, for 30 minutes while the temperature was maintained at room temperature. This was followed by the addition of a solution of benzenesulfonyl chloride (3.63 g, 20.55 mmol) in tetrahydrofuran (50 mL), which was added dropwise with stirring, while cooling to a temperature of 0° C. The resulting solution was allowed to react, with stirring, for 3 hours while the temperature was maintained at room temperature. The reaction mixture was then quenched by the adding of H2O. The mixture was concentrated by evaporation under vacuum using a rotary evaporator. The residue was dissolved in 300 mL of ethyl acetate. The resulting mixture was washed two times with 200 mL of brine and the organic layers combined. The mixture was dried over Na2SO4 and concentrated by evaporation under vacuum using a rotary evaporator. The resulting mixture was washed with ethyl acetate/petroleum ether=1:40. This resulted in 3.4 g (82%) of 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde as a light yellow solid.

reactant | NaH | 54.75 mmol, 2.19 g | [H-].[Na+]
reactant | 1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | 13.70 mmol, 2 g | N1C=C(C=2C1=NC=CC2)C=O | C8H6N2O
reactant | benzenesulfonyl chloride | 20.55 mmol, 3.63 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=CC2)C=O | C14H10N2O3S
